US07452880B2
Step 2. Preparation of (4-chloro-2-methylsulfanylpyrimidin-5-yl)-(2-chlorophenyl)-methanone.
To a solution of (2-chlorophenyl)-(4-chloro-2-methylsulfanylpyrimidin-5-yl)methanol (10.8 g, 35.75 mol) in toluene (150 mL) was added manganese (IV) oxide (Aldrich) (31.2 g, 10 eq). The resulting mixture was heated to reflux with stirring for a total of 2.5 hours. The reaction was then filtered hot through a 3.5 cm pad of Celite. The pad of Celite was rinsed with hot ethyl acetate, and the filtrate was concentrated to give a crude oil. Purification by Flash Column Chromatography on Silica Gel eluting with a gradient of 2%-10% ethyl acetate in hexanes gave the title compound as a yellow viscous semi-solid (5.3 g, (M+H)+=299.

reactant | (2-chlorophenyl)-(4-chloro-2-methylsulfanylpyrimidin-5-yl)methanol | 35.75 mol, 10.8 g | ClC1=C(C=CC=C1)C(O)C=1C(=NC(=NC1)SC)Cl | C12H10Cl2N2OS
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese (IV) oxide | 31.2 g, 10 eq | [O-2].[Mn+4].[O-2]
product | (4-chloro-2-methylsulfanylpyrimidin-5-yl)-(2-chlorophenyl)-methanone | ClC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)Cl)SC | C12H8Cl2N2OS
